US06426345B1
A mixture of 3-cyclopentyloxy-4-methoxy-1-nitrobenzene (5.02 g), iron powder (4.8 g) and hydrochloric acid (35%, 15 ml) in ethanol (40 ml) was stirred under reflux for 3 hours. Then the mixture was poured into aqueous sodium bicarbonate and extracted with ethyl acetate twice. The combined organic phase was washed with aqueous sodium bicarbonate and brine, dried over magnesium sulfate and concentrated to give 3-cyclopentyloxy-4-methoxyaniline (2.60 g) as an oil.

reactant | 3-cyclopentyloxy-4-methoxy-1-nitrobenzene | 5.02 g | C1(CCCC1)OC=1C=C(C=CC1OC)[N+](=O)[O-] | C12H15NO4
reactant | hydrochloric acid | 15 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | iron | 4.8 g | [Fe] | Fe
product | 3-cyclopentyloxy-4-methoxyaniline | 2.60 g | C1(CCCC1)OC=1C=C(N)C=CC1OC | C12H17NO2
